US06156700
Preparation of 5-[3,6-Dihydro-3-methyl-2,6-dioxo-4-(trifluoromethyl)-1(2H)-pyrimidinyl]-1,2-benzisothiazole-3-carboxylic acid, methyl ester
To a solution of 5-[3,6-dihydro-3-methyl-2,6-dioxo-4-(trifluoromethyl)-1(2H)-pyrimidinyl]-1,2-benzisothiazole-3-carboxylic acid (0.300 g, 0.000809 mol) in methanol is added sulfuric acid (98%, 5 drops) at room temperature. The resultant mixture is stirred overnight at room temperature and concentrated in vacuo. The residue is taken up in methylene chloride, washed with saturated sodium bicarbonate and brine, dried over anhydrous sodium sulfate, filtered, and concentrated in vacuo. Column chromatography of the residue on silica gel with methylene chloride:ethyl acetate gives the title compound as a white solid (0.235 g, 75.3%, mp 153-156° C.).

reactant | 5-[3,6-dihydro-3-methyl-2,6-dioxo-4-(trifluoromethyl)-1(2H)-pyrimidinyl]-1,2-benzisothiazole-3-carboxylic acid | 0.000809 mol, 0.300 g | CN1C(N(C(C=C1C(F)(F)F)=O)C=1C=CC2=C(C(=NS2)C(=O)O)C1)=O | C14H8F3N3O4S
reactant | methanol | CO | CH4O
catalyst | sulfuric acid | 5 drops | S(O)(O)(=O)=O | H2O4S
product | 5-[3,6-Dihydro-3-methyl-2,6-dioxo-4-(trifluoromethyl)-1(2H)-pyrimidinyl]-1,2-benzisothiazole-3-carboxylic acid, methyl ester | 0.235 g, 75.3% | CN1C(N(C(C=C1C(F)(F)F)=O)C=1C=CC2=C(C(=NS2)C(=O)OC)C1)=O | C15H10F3N3O4S
